US07199147B2
N-benzylamine (4.0 ml, 36.5 mmol) was added to a solution of 3-chloro-N-(1H-indazol-5-yl)propanamide (1.70 g, 7.60 mmol) in N,N-dimethylformamide (2 ml), and the resulting mixture was stirred at 80° C. for 1 hour. Then, the reaction solution was cooled to 0° C. and hexane was added thereto to effect suspension. The solid precipitated was collected by filtration and purified by a silica gel column chromatography (eluent: chloroform/methanol=20/1) to obtain N3-benzyl-N1-(1H-indazol-5-yl)-β-alaninamide (1.00 g, 45%).

reactant | N-benzylamine | 36.5 mmol, 4.0 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-chloro-N-(1H-indazol-5-yl)propanamide | 7.60 mmol, 1.70 g | ClCCC(=O)NC=1C=C2C=NNC2=CC1 | C10H10ClN3O
reactant | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N3-benzyl-N1-(1H-indazol-5-yl)-β-alaninamide | 1.00 g, 45% | C(C1=CC=CC=C1)NCCC(=O)NC=1C=C2C=NNC2=CC1 | C17H18N4O
